US05268386
Ethyl 4-{(5-hydroxy-3,4-dihydro-4-oxospiro[2H-1-benzopyran-2,1'-cyclohexan]-7-yl) oxy}butyrate
According to the same procedure as in Preparation 46, a mixture of 5,7-dihydroxyspiro[2H-1-benzopyran-2,1'-cyclohexan]-4(3H)-one (prepared in Preparation 19) (0.248 g, 1.0 mmol), ethyl 4-bromobutyrate (0.215 g, 1.1 mmol), anhydrous potassium carbonate (0.207 g, 1.5 mmol), and acetonitrile (3 ml) is reacted and treated. The resulting extract is concentrated and the residue is purified by a silica gel column chromatography (eluent: acetone and dichlomethane, 1:50) to obtain the title compound as an oil (0.236 g, yield 64.9%).

reactant | 5,7-dihydroxyspiro[2H-1-benzopyran-2,1'-cyclohexan]-4(3H)-one | 1.0 mmol, 0.248 g | OC1=CC(=CC2=C1C(CC1(CCCCC1)O2)=O)O | C14H16O4
reactant | ethyl 4-bromobutyrate | 1.1 mmol, 0.215 g | BrCCCC(=O)OCC | C6H11BrO2
reactant | potassium carbonate | 1.5 mmol, 0.207 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | Ethyl 4-{(5-hydroxy-3,4-dihydro-4-oxospiro[2H-1-benzopyran-2,1'-cyclohexan]-7-yl) oxy}butyrate | 0.236 g, yield 64.9% | OC1=CC(=CC2=C1C(CC1(CCCCC1)O2)=O)OCCCC(=O)OCC | C20H26O6
